US06232430B1
3,5-Di-tert-butyldimethylsilyloxybenzyl methacrylate (step 3)
3,5-Di-tert-butyldimethylsilyloxybenzyl alcohol (13.0 g, 35.2 mmole) and freshly distilled methacryloyl chloride (4.06 g, 38.8 mmole) were dissolved in 75 ml of ether and cooled to 0° C. Pyridine (3.21 g, 40.6 mmole) in ether (10 ml) was added dropwise and the reaction mixture was stirred overnight at room temperature. The pyridinium hydrochloride was filtered off and the filtrate was passed over a silica bed to remove the traces of methacrylic acid. Through the silica bed were passed another 75 ml of ether, and after combination of the fractions, the ether was removed under reduced pressure to obtain an oily product (14.2 g, 32.7 mmole, 93%).

reactant | 3,5-Di-tert-butyldimethylsilyloxybenzyl alcohol | 35.2 mmole, 13.0 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(CO)C=C(C1)O[Si](C)(C)C(C)(C)C | C19H36O3Si2
reactant | methacryloyl chloride | 38.8 mmole, 4.06 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | Pyridine | 40.6 mmole, 3.21 g | N1=CC=CC=C1 | C5H5N
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 3,5-Di-tert-butyldimethylsilyloxybenzyl methacrylate | 32.7 mmole, 14.2 g, 93% | C(C(=C)C)(=O)OCC1=CC(=CC(=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C23H40O4Si2
